US07601856B2
Following the procedure of Example 1, 6,7,8,9,10,11-Hexahydro-benzo[b]-cycloocta[d]furan-2-ylamine (0.15 g, 0.69 mmol), hydrocinnamoyl chloride (0.10 mL, 0.69 mmol), and poly(vinylpyridine) (0.5 g) in dichloroethane (8 mL) provided N-(6,7,8,9,10,11-hexahydrobenzo[b]cycloocta[d]furan-2-yl)-3-phenylpropanamide (0.17 g). MS (ESI) m/z 348 ([M+H]+).

reactant | 6,7,8,9,10,11-Hexahydro-benzo[b]-cycloocta[d]furan-2-ylamine | 0.69 mmol, 0.15 g | C1=C(C=CC=2OC3=C(C21)CCCCCC3)N | C14H17NO
reactant | hydrocinnamoyl chloride | 0.69 mmol, 0.10 mL | C(CCC1=CC=CC=C1)(=O)Cl | C9H9ClO
solvent | dichloroethane | 8 mL | ClC(C)Cl | C2H4Cl2
product | N-(6,7,8,9,10,11-hexahydrobenzo[b]cycloocta[d]furan-2-yl)-3-phenylpropanamide | 0.17 g | C1=C(C=CC=2OC3=C(C21)CCCCCC3)NC(CCC3=CC=CC=C3)=O | C23H25NO2
